US07550598B2
(Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)cyclobutanecarboxamide
The title compound was synthesized using (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one and cyclobutanecarbonyl chloride in THF according to the procedure described in the synthesis of Example 26. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.68 (t, J=7.33 Hz, 3H) 1.30 (qd, J=7.49, 7.33 Hz, 2H) 1.78-1.89 (m, 1H) 1.91-2.03 (m, 1H) 2.12-2.16 (m, 2H) 2.18-2.27 (m, 5H) 6.73 (s, 1H) 7.60-7.70 (m, 3H) 7.83-7.94 (m, 4H) 8.14 (d, J=8.08 Hz, 1H) 10.11 (s, 1H); ESI-MS: m/z calc'd for C26H26N4O2S 458.58. found 459.3 (M+H)+.

reactant | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C21H20N4OS
reactant | cyclobutanecarbonyl chloride | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | THF | C1CCOC1 | C4H8O
product | (Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)cyclobutanecarboxamide | O=C1\C(\C(=NN1)CCC)=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=C(C=C1)NC(=O)C1CCC1 | C26H26N4O2S
